US04051104
Preparation of n-octadecyl-4-(3,5-di-t-butyl-4-hydroxybenzoyloxy)-3,5-di-t-butylbenzoate
10.0 grams of 4-(3,5-di-t-butyl-4-hydroxybenzoyloxy)-3,5-di-t-butylbenzoyl chloride (0.02 moles) 5.4 grams of n-octadecanol (0.02 moles) and 2.0 grams of triethylamine were stirred together in 100 ml. of benzene at room temperature for 2 hours and then heated for 1 hour at 60° to 70° C. The reaction mixture was cooled to room temperature and the precipitate filtered. The benzene solution was washed with water and dried over sodium sulfate. The benzene solution was then concentrated at reduced pressure yielding about 15 grams of the product. The product was crystallized twice from isopropanol yielding white crystals melting at 75° to 76° C.

reactant | 4-(3,5-di-t-butyl-4-hydroxybenzoyloxy)-3,5-di-t-butylbenzoyl chloride | 0.02 moles, 10.0 grams | C(C)(C)(C)C=1C=C(C(=O)OC2=C(C=C(C(=O)Cl)C=C2C(C)(C)C)C(C)(C)C)C=C(C1O)C(C)(C)C | C30H41ClO4
reactant | n-octadecanol | 0.02 moles | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | triethylamine | 2.0 grams | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | n-octadecyl-4-(3,5-di-t-butyl-4-hydroxybenzoyloxy)-3,5-di-t-butylbenzoate | about 15 grams | C(CCCCCCCCCCCCCCCCC)OC(C1=CC(=C(C(=C1)C(C)(C)C)OC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)C(C)(C)C)=O | C48H78O5
